US08497271B2
Part E. (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid {(R)-2-hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide
To a solution of (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid (1.08 g, 6.45 mmol) in dichloromethane (50 ml) in an ice-bath was added oxalyl chloride (6.50 ml, 64.4 mmol), then DMF (0.1 ml) under nitrogen. The reaction mixture was stirred for 30 minutes at 0° C. The excessive solvent was removed on ratovapor and dried under high vacuum for 2 hrs to give (1S,2S)-2-thiophen-2-yl-cyclopropanecarboxylic chloride. In a separated 250 ml round-bottom flask was charged with {(R)-2-hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide HCl (6.47 mmol), dichloromethane (60 ml) and triethylamine (4.30 ml, 32.35 mmol) in an ice cold bath under nitrogen. The (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic chloride, made freshly in dichloromethane (10 ml) was added into the reaction mixture dropwise. The final reaction mixture was stirred for 1.5 hrs at room temperature. The finished reaction was quenched with water. The organic phase was washed with brine (3×30 ml), dried over MgSO4, filtrated, concentrated in vacuum and purified via column chromatography on silica gel with a gradient of 0%-100% of ethyl acetate in hexane to give a white solid (1.42 g, 58% yield): 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.25 (d, J=8.6 Hz, 2H), 7.09 (m, 1H), 6.91 (m, 3H), 6.82 (d, J=3.5 Hz, 1H), 6.23 (d, J=6.1 Hz, 1H), 5.06 (td, J=6.3, 4.3 Hz, 1H), 3.91 (m, 2H), 3.78 (m, 2H), 2.75 (m, 2H), 1.88 (m, 1H), 1.70 (m, 2H), 1.58 (m, 1H), 1.29 (m, 2H), 1.03 (d, J=6.8 Hz, 3H), 0.96 (t, J=7.5 Hz, 3H); LCMS (ESI) m/e 374.2 [(M+H)+, calcd for C21H28NO3S 374.5].

reactant | {(R)-2-hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide HCl | 6.47 mmol | Cl.OC[C@@H](C1=CC=C(C=C1)OC[C@H](CC)C)[NH-]
reactant | triethylamine | 32.35 mmol, 4.30 ml | C(C)N(CC)CC | C6H15N
reactant | (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic chloride | S1C(=CC=C1)[C@@H]1[C@H](C1)C(=O)Cl | C8H7ClOS
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (1S,2S)-2-Thiophen-2-yl-cyclopropanecarboxylic acid {(R)-2-hydroxy-1-[4-((S)-2-methyl-butoxy)-phenyl]-ethyl}-amide | 1.42 g, 58% yield | OC[C@@H](C1=CC=C(C=C1)OC[C@H](CC)C)NC(=O)[C@@H]1[C@H](C1)C=1SC=CC1 | C21H27NO3S
